US05889026
Palladium on carbon (10%, 50 mg) was added to a solution of 4-benzyloxy-N-[3-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-propyl]-benzamide (220 mg, 0.46 mmol) in acetic acid (5 ml). The hydrogenation was complete after 4 h. The catalyst was removed by filtration through celite and the solvent was evaporated. Sodium bicarbonate (10% aq. solution, 2 ml) was added, and the aqeous layer extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered and evaporated to give 4-hydroxy-N-[3-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-propyl]-benzamide (178 mg,73%) as a white solid. MS: me/e=383 (M+H)+.

reactant | 4-benzyloxy-N-[3-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-propyl]-benzamide | 0.46 mmol, 220 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1 | C30H36N2O3
catalyst | Palladium on carbon | 50 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-hydroxy-N-[3-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-propyl]-benzamide | 178 mg, 73% | OC1=CC=C(C(=O)NCCCN2CCC(CC2)(CC2=CC=C(C=C2)C)O)C=C1 | C23H30N2O3
